US06331640B1
N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[(1,2,3,4-tetrahydronaphthalene-2-carbonyl)]amino-L-alanine;
N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[(DL-7-methoxy-1,2,3,4,4αβ,9,10,10αβ-octahydro-2β-phenanthrenecarbonyl)]amino-L-alanine; 3-(6-bromo-2-oxo-1,2,3,4-tetrahydroquinoline-4-carbonyl)amino-N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-L-alanine; N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-(benzofuran-2-carbonyl)amino-L-alanine;

reactant | 3-(6-bromo-2-oxo-1,2,3,4-tetrahydroquinoline-4-carbonyl)amino-N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-L-alanine | BrC=1C=C2C(CC(NC2=CC1)=O)C(=O)NC[C@H](NC(C1=C(C=C(C=C1)C(=O)NCC1=CC(=CC=C1)O)Cl)=O)C(=O)O | C28H24BrClN4O7
reactant | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-(benzofuran-2-carbonyl)amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)C=2OC3=C(C2)C=CC=C3)C(=O)O)C=CC(=C1)C(=O)NCC1=CC(=CC=C1)O | C27H22ClN3O7
product | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[(1,2,3,4-tetrahydronaphthalene-2-carbonyl)]amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)C2CC3=CC=CC=C3CC2)C(=O)O)C=CC(=C1)C(=O)NCC1=CC(=CC=C1)O | C29H28ClN3O6
